US07288547B2
Production of 5-[5-bromo-4-(2-hydroxy-1,2-dimethyl-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide
108 mg (0.25 mmol) of 5-[5-bromo-4-(1-methyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide is dissolved in tetrahydrofuran p.a. at 4° C. that is mixed in portions with 1 ml (3 mmol) of methylmagnesium bromide (3 M in ether). After 24 hours of stirring at room temperature, it is quenched by adding ammonium chloride solution. After extraction with ethyl acetate, the dried residue is flashed with dichloromethane/methanol.

reactant | 5-[5-bromo-4-(1-methyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | 0.25 mmol, 108 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SC(C(C)=O)C | C13H14BrN5O3S2
reactant | methylmagnesium bromide | 3 mmol, 3 M, 1 ml | C[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[5-bromo-4-(2-hydroxy-1,2-dimethyl-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SC(C(C)(C)O)C | C14H18BrN5O3S2
